US04670441
A mixture of 14.0 g (0.1 mol) of 5-amino-2-methoxyphenol and 6.7 g (0.1 mol) of potassium hydroxide (85%) in 100 ml of toluene and 100 ml of dimethyl sulfoxide is dewatered at 150° C. in a sulfonating flask equipped with a water separator. After 3 hours the toluene is distilled off, the mixture is cooled to 80° C. and 18.2 g (0.1 mol) of 2,3,5-trichloropyridine in 25 ml of dimethyl sulfoxide are added. The mixture is stirred for 3 hours at 120° C. and then cooled and 5 ml of acetic acid are added. After distillation under a high vacuum, the residue is extracted with 200 ml of water and 300 ml of methylene chloride. The organic phase affords 28 g of 3-(3,5-dichloropyrid-2-yloxy)-4-methoxyaniline as congealing oil. Melting point 95°-105° C.

reactant | 5-amino-2-methoxyphenol | 0.1 mol, 14.0 g | NC=1C=CC(=C(C1)O)OC | C7H9NO2
reactant | potassium hydroxide | 0.1 mol, 6.7 g | [OH-].[K+]
reactant | water | O | H2O
reactant | 2,3,5-trichloropyridine | 0.1 mol, 18.2 g | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-(3,5-dichloropyrid-2-yloxy)-4-methoxyaniline | 28 g | ClC=1C(=NC=C(C1)Cl)OC=1C=C(N)C=CC1OC | C12H10Cl2N2O2
